US07897631B2
4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride (0.101 g, 0.639 mmol) was reacted with 3-azidomethyl-furan (0.094 g, 0.767 mmol) following the general procedure for click reactions outlined above to produce 4-(1-Furan-3-ylmethyl-1H-[1,2,3]triazol-4-ylmethyl)-1H-imidazol-2-ylamine hydrochloride (0.077 g, 43%) of a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 8.12 (s, 1H), δ 7.60 (s, 1H), δ 7.38 (s, 1H), δ 6.53 (s, 1H), δ 6.37 (s, 1H), δ 5.46 (s, 2H), δ 3.95 (s, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 146.1, 145.3, 144.1, 141.0, 123.3, 123.1, 110.3, 110.2, 109.9, 51.3, 19.9 ppm; HRMS (ESI) calcd for C11H12N6O (M+) 244.1145, found 244.1145.

reactant | 4-Prop-2-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.639 mmol, 0.101 g | Cl.C(C#C)C=1N=C(NC1)N
reactant | 3-azidomethyl-furan | 0.767 mmol, 0.094 g | N(=[N+]=[N-])CC1=COC=C1 | C5H5N3O
product | 4-(1-Furan-3-ylmethyl-1H-[1,2,3]triazol-4-ylmethyl)-1H-imidazol-2-ylamine hydrochloride | 0.077 g, 43% | Cl.O1C=C(C=C1)CN1N=NC(=C1)CC=1N=C(NC1)N | InChI=1S/C11H12N6O.ClH/c12-11-13-4-9(14-11)3-10-6-17(16-15-10)5-8-1-2-18-7-8;/h1-2,4,6-7H,3,5H2,(H3,12,13,14);1H
